US04778513
10.9 g of a 55% dispersion of sodium hydride are suspended in 40 ml of dimethylformamide and then 13.6 ml of cyclopentanol are added dropwise. Then a solution of 19.24 g of 2-chloropyridin-3-ylsulfonamide in 40 ml of dimethylformamide is added dropwise and the reaction mixture is stirred for 2 hours at 35°-40° C. and then taken up in a mixture of 250 ml of ethyl acetate, 250 ml of ice-water and 125 ml of 1N hydrochloric acid. After extraction with 3×100 ml of ethyl acetate the combined organic phases are washed with 4×100 ml of water. The organic solution is washed and dried, affording an oily residue which crystallises after trituration with 50 ml of ether to give 19.64 g of 2-cyclopentyloxypyridin-3-ylsulfonamide with a melting point of 134°-135° C.

reactant | sodium hydride | [H-].[Na+]
reactant | cyclopentanol | 13.6 ml | C1(CCCC1)O | C5H10O
reactant | 2-chloropyridin-3-ylsulfonamide | 19.24 g | ClC1=NC=CC=C1S(=O)(=O)N | C5H5ClN2O2S
reactant | hydrochloric acid | 1N, 125 ml | Cl | ClH
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-cyclopentyloxypyridin-3-ylsulfonamide | 19.64 g | C1(CCCC1)OC1=NC=CC=C1S(=O)(=O)N | C10H14N2O3S
